US04510324
As an additional variation of the reaction sequence, the 4-(2-bromoethyl) benzenesulfonamide produced as in Example I was reacted with benzenesulfonyl chloride and sodium hydroxide and then acidified to produce N-benzenesulfonyl-4-(2-bromoethyl) benzenesulfonamide. Recrystallization of a small portion from toluene gave a white solid, having a melting point of 148°-150° C. and a neutralization equivalent of 405 (theory 404).

reactant | 4-(2-bromoethyl) benzenesulfonamide | BrCCC1=CC=C(C=C1)S(=O)(=O)N | C8H10BrNO2S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
product | N-benzenesulfonyl-4-(2-bromoethyl) benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)NS(=O)(=O)C1=CC=C(C=C1)CCBr | C14H14BrNO4S2
